US06410562B1
Ethyl 7-Bromo-3-(3-(tert.-butoxycarbonylamino)propoxy)naphthalen-2-carboxylate (Y=CH2NHBoc)
A mixture of 3.8 g (12.88 mmol) ethyl 7-bromo-3-hydroxynaphthalen-2-carboxylate, 3.0 g (15.5 mmol) 1-(tert.-butoxycarbonylamino)-3-chloropropane (prepared according to Helv. Chim. Acta 76 (1993), 1644), 2.0 g (14.5 mmol) potassium carbonate, and a catalytic amount of potassium iodide in 20 ml dry DMF was stirred at 90° C. for 6 h. It was poured into water, extracted three times with ethyl acetate, and the combined organic layers were washed three times with water, dried over sodium sulfate, and concentrated in vacuo. The intermediate was purified by chromatography on silica gel with toluene/acetone 9:1 to give 5.8 g (100%) of a yellow oil, which solidified rapidly upon standing.

reactant | ethyl 7-bromo-3-hydroxynaphthalen-2-carboxylate | 12.88 mmol, 3.8 g | BrC1=CC=C2C=C(C(=CC2=C1)C(=O)OCC)O | C13H11BrO3
reactant | 1-(tert.-butoxycarbonylamino)-3-chloropropane | 15.5 mmol, 3.0 g | C(C)(C)(C)OC(=O)NCCCCl | C8H16ClNO2
reactant | potassium carbonate | 14.5 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Ethyl 7-Bromo-3-(3-(tert.-butoxycarbonylamino)propoxy)naphthalen-2-carboxylate | 5.8 g, 100% | BrC1=CC=C2C=C(C(=CC2=C1)C(=O)OCC)OCCCNC(=O)OC(C)(C)C | C21H26BrNO5
